US07776857B2
Sodium Hydride (11 mg, 449 μmol), 2-(piperidin-2-yl)ethanol (58 mg, 449 μmol), and benzene (2243 μl, 449 μmol) were combined in a resealable tube capped with a septum and heated to 40° C. for 30 minutes. 4-Chloro-N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)phthalazin-1-amine (200 mg, 449 μmol) was added, and the reaction mixture was allowed to stir at 80° C. for 18 hours. The mixture was concentrated in vacuo and the crude material was partitioned between methylene chloride and water. The organic layers were combined and over Na2SO4 and concentrated. The crude material was purified via ISCO, 12 g RediSep column eluting with a 20-100% gradient of 90:10:1 (DCM:MeOH:NH4OH) in DCM. The product fractions were combined and concentrated in vacuo to afford N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)-4-(2-(piperidin-2-yl)ethoxy)phthalazin-1-amine. MS: [M+H]=539.

reactant | Sodium Hydride | 449 μmol, 11 mg | [H-].[Na+]
reactant | 2-(piperidin-2-yl)ethanol | 449 μmol, 58 mg | N1C(CCCC1)CCO | C7H15NO
reactant | benzene | 449 μmol, 2243 μl | C1=CC=CC=C1 | C6H6
reactant | 4-Chloro-N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)phthalazin-1-amine | 449 μmol, 200 mg | ClC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)SC1=CC=NC2=CC(=CN=C12)OC | C23H16ClN5OS
product | N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)-4-(2-(piperidin-2-yl)ethoxy)phthalazin-1-amine | COC1=CN=C2C(=CC=NC2=C1)SC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)OCCC1NCCCC1 | C30H30N6O2S
